US08138208B2
A solution of ((R)-4-{[6-(4-chloro-phenoxy)-5-isopropenyl-pyridine-3-sulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (42 mg, 0.077 mmol) in methanol was hydrogenated over 10% palladium on carbon (6 mg) under atmospheric pressure for 2.5 hours at room temperature. The reaction mixture was filtered through a glass funnel and the filtrate was purified by preparative HPLC to afford ((R)-4-{[6-(4-chloro-phenoxy)-5-isopropyl-pyridine-3-sulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (22.4 mg, 53%) as a white solid. MS cald. for C26H31ClN4O5S 546, obsd. (ESI+) [(M+H)+] 547.

reactant | ((R)-4-{[6-(4-chloro-phenoxy)-5-isopropenyl-pyridine-3-sulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 0.077 mmol, 42 mg | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C=1C=NC(=C(C1)C(=C)C)OC1=CC=C(C=C1)Cl)=O | C26H29ClN4O5S
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 6 mg | [Pd] | Pd
product | ((R)-4-{[6-(4-chloro-phenoxy)-5-isopropyl-pyridine-3-sulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 22.4 mg, 53% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C=1C=NC(=C(C1)C(C)C)OC1=CC=C(C=C1)Cl)=O | C26H31ClN4O5S
